US07173033B2
A solution mixture of concentrated sulfuric acid (1.5 ml) and water (3 ml) was cooled to −5° C., and 4-(6-piperidin-1-yl-1,2,4-triazolo[4,3-b]pyridazin-3-yl)-1,3-thiazol-2-amine (0.90 g), copper (II) sulfate (1.50 g) and sodium bromide (0.62 g) were added successively, and the mixture was stirred at 0° C. for 5 minutes. Then, a solution of sodium nitrite (0.25 g) in water (1.6 ml), followed by stirring at room temperature overnight. The reaction solution was combined with water, chloroform and 2-propanol, and insoluble materials were filtered off. The resultant organic phase was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography (eluent: chloroform:methanol=20:1) to obtain crude crystals, which were then recrystallized from ethanol-diethyl ether to obtain 3-(2-bromo-1,3-thiazol-4-yl)-6-piperidin-1-yl-1,2,4-triazolo[4,3-b]pyridazine (75 mg) as pale yellow crystals.

reactant | sulfuric acid | 1.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4-(6-piperidin-1-yl-1,2,4-triazolo[4,3-b]pyridazin-3-yl)-1,3-thiazol-2-amine | 0.90 g | N1(CCCCC1)C=1C=CC=2N(N1)C(=NN2)C=2N=C(SC2)N | C13H15N7S
reactant | sodium bromide | 0.62 g | [Br-].[Na+]
reactant | sodium nitrite | 0.25 g | N(=O)[O-].[Na+]
solvent | water | 1.6 ml | O | H2O
catalyst | copper (II) sulfate | 1.50 g | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | water | 3 ml | O | H2O
solvent | 2-propanol | CC(C)O | C3H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-bromo-1,3-thiazol-4-yl)-6-piperidin-1-yl-1,2,4-triazolo[4,3-b]pyridazine | 75 mg | BrC=1SC=C(N1)C1=NN=C2N1N=C(C=C2)N2CCCCC2 | C13H13BrN6S
